US08048878B2
Synthesis of (E)-(6S*9aR*)-6-(2-fluorophenyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one
Lithium hydroxide monohydrate (169 mg) was added to a mixed solution of diethyl [(6S*,9aR*)-6-(2-fluorophenyl)-4-oxooctahydroquinolizin-3-yl]phosphonate (501 mg) and 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (290 mg) in tetrahydrofuran (12 mL) and ethanol (4 mL) at room temperature, and the reaction solution was stirred at room temperature for two hours. Ethyl acetate was added to the reaction solution, which was then sequentially washed with saturated sodium bicarbonate water and brine. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system) to obtain 483 mg of the title compound. The property values of the compound are as follows.

reactant | Lithium hydroxide monohydrate | 169 mg | O.[OH-].[Li+]
reactant | diethyl [(6S*,9aR*)-6-(2-fluorophenyl)-4-oxooctahydroquinolizin-3-yl]phosphonate | 501 mg | FC1=C(C=CC=C1)[C@H]1N2C(C(CC[C@H]2CCC1)P(OCC)(OCC)=O)=O | C19H27FNO4P
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 290 mg | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 6-(2-fluorophenyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]octahydroquinolizin-4-one | 483 mg | FC1=C(C=CC=C1)C1N2C(C(CCC2CCC1)=CC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C27H28FN3O2
